US05646286
Ethyl (3-hydroxy-6-methylpyridin-2-yl)propenoate
To a solution of 3-hydroxy-2-iodo-6-methylpyridine (1.175 g, 5.0 mmol) in DMF (9.5 ml) and water (0.5 ml) were added potassium acetate (1.23 g, 12.5 mmol), triphenylphosphine (105 mg, 0.40 mmol), palladium chloride (36 mg, 0.20 mmol) and ethyl acrylate (1.63 ml, 1.50 g, 15.0 mmol). The mixture was placed under nitrogen and heated at 120° C. for 1.5 h. The mixture was cooled, filtered from deposited palladium black, and added to water (100 ml). The product was extracted into ethyl acetate (3×30 ml). The combined extracts were washed with water (2×25 ml) and with brine (25 ml), then dried over sodium sulphate and evaporated. This left a tan solid, the product (951 mg, 91%). mp 192°-195° C. (dec)

reactant | 3-hydroxy-2-iodo-6-methylpyridine | 5.0 mmol, 1.175 g | OC=1C(=NC(=CC1)C)I | C6H6INO
reactant | potassium acetate | 12.5 mmol, 1.23 g | C(C)(=O)[O-].[K+]
reactant | triphenylphosphine | 0.40 mmol, 105 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acrylate | 15.0 mmol, 1.63 ml, 1.50 g | C(C=C)(=O)OCC | C5H8O2
solvent | DMF | 9.5 ml | CN(C)C=O | C3H7NO
solvent | water | 0.5 ml | O | H2O
catalyst | palladium chloride | 0.20 mmol, 36 mg | [Pd](Cl)Cl
product | Ethyl (3-hydroxy-6-methylpyridin-2-yl)propenoate | OC=1C(=NC(=CC1)C)C(C(=O)OCC)=C | C11H13NO3
